US09303000B2
Synthesis of (Z)-3-(1-(2-(1,3,4-oxadiazol-2-yl)vinyl)-1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)phenyl isobutyl carbonate
In a 100-mL, 3-neck round-bottomed flask equipped with nitrogen inlet, and a rubber septum, (Z)-3-(1-(3-hydrazinyl-3-oxoprop-1-enyl)-1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)phenyl isobutyl carbonate (2 g, 1.0 eq.) was dissolved in THF (20 mL, 10V). Trimethylorthoformate (0.56 g, 1.1 eq.) and methanesulphonic acid (0.23 g, 0.5 eq.) were added and the reaction was refluxed at 70° C. for 2-3 h. The progress of the reaction was followed by TLC analysis on silica gel with 10% MeOH-dichloromethane as mobile phase. SM Rf=0.40 and Product Rf=0.5. Reaction mixture was poured into ice water (100 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine solution (3×50 mL), dried over MgSO4, filtered, and concentrated by rotary evaporation (25° C., 20 mmHg) to afford 2.5 g of crude compound. The crude reaction mixture was purified by column chromatography using silica 60/120 using dichloromethane:Methanol as mobile phase. The column was packed in dichloromethane and started eluting in dichloromethane in gradient manner starting with fraction collection (25-mL fractions). Compound started eluting with 0.8% Methanol in dichloromethane. Fractions containing such TLC profile was collected together to obtain pure compound (0.1 g).

reactant | (Z)-3-(1-(3-hydrazinyl-3-oxoprop-1-enyl)-1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)phenyl isobutyl carbonate | 2 g, 1.0 eq. | C(OC1=CC(=CC(=C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NN)(OCC(C)C)=O | C17H18F3N5O4
reactant | Trimethylorthoformate | 0.56 g, 1.1 eq. | COC(OC)OC | C4H10O3
reactant | methanesulphonic acid | 0.23 g, 0.5 eq. | CS(=O)(=O)O | CH4O3S
reactant | MeOH dichloromethane | CO.ClCCl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (Z)-3-(1-(2-(1,3,4-oxadiazol-2-yl)vinyl)-1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)phenyl isobutyl carbonate | 0.1 g | C(OC1=CC(=CC(=C1)C(F)(F)F)C1=NN(C=N1)\C=C/C=1OC=NN1)(OCC(C)C)=O | C18H16F3N5O4
